US04075001
Using the procedure of Example I, part F, 54.5 g of 3-amino-2-cyano-3-(diethylamino)propenethioamide were oxidized with 41 ml of 30% hydrogen peroxide to give 41.5 g of white 5-amino-4-cyano-3-(diethylamino)isothiazole, m.p. 87°-88°. The nmr spectrum was consistent with the assigned structure.

reactant | 3-amino-2-cyano-3-(diethylamino)propenethioamide | 54.5 g | NC(=C(C(N)=S)C#N)N(CC)CC | C8H14N4S
reactant | hydrogen peroxide | 41 ml | OO | H2O2
product | 5-amino-4-cyano-3-(diethylamino)isothiazole | 41.5 g | NC1=C(C(=NS1)N(CC)CC)C#N | C8H12N4S
